US05814574
(C) Bis(2-methoxyethylcyclopentadienyl) Zirconium Dichloride
A solution of 4.5 g (37.7 mmol) 2-methoxyethylcyclopentadiene in 50 ml THF was added to 2.20 g (58.0 mmol) clean, dry potassium metal under nitrogen. This was stirred for two hours at room temperature and warmed to 40 20 C. for a further two hours. After cooling, the solution was filtered and the remaining potassium washed, dried and weighed. The yield of potassium 2-methoxyethylcyclopentadienylide (KCp*) was calculated to be 4.20 g (26.4 mmol). The KCp* solution was added to a slurry of 3.03 g (13.0 mmol) zirconium tetrachloride in 20 ml THF and stirred for two hours. Approximately 0.5 ml water was added to the reaction vessel and the volatiles removed under reduced pressure. The residue was extracted with diethyl ether and filtered. The volume of ether was reduced under vacuum until precipitation began. Cooling to -50° C. in a low temperature freezer yielded 3.50 g of product as colourless needles (8.58 mmol, 66.0%), shown to be spectroscopically pure by 1H NMR.

reactant | 2-methoxyethylcyclopentadiene | 37.7 mmol, 4.5 g | COCCC1=CC=CC1 | C8H12O
reactant | potassium | [K] | K
reactant | zirconium tetrachloride | 13.0 mmol, 3.03 g | [Cl-].[Cl-].[Cl-].[Cl-].[Zr+4]
reactant | water | 0.5 ml | O | H2O
reactant | THF | 50 ml | C1CCOC1 | C4H8O
reactant | THF | 20 ml | C1CCOC1 | C4H8O
product | Bis(2-methoxyethylcyclopentadienyl) Zirconium Dichloride | 8.58 mmol, 3.50 g, 66.0% | [Cl-].[Cl-].COCCC1(C=CC=C1)[Zr+2]C1(C=CC=C1)CCOC | InChI=1S/2C8H11O.2ClH.Zr/c2*1-9-7-6-8-4-2-3-5-8;;;/h2*2-5H,6-7H2,1H3;2*1H;/q;;;;+2/p-2
